US07985753B2
6-Methyl-6,7,8,9-tetrahydro-1,3-dioxa-7-aza-cyclopenta[a]naphthalene
In close analogy to the procedure described above, 6-Methyl-8,9-dihydro-1,3-dioxa-7-aza-cyclopenta[a]naphthalene is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 6-Methyl-8,9-dihydro-1,3-dioxa-7-aza-cyclopenta[a]naphthalene | CC=1C2=CC=C3C(=C2CCN1)OCO3 | C11H11NO2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 6-Methyl-6,7,8,9-tetrahydro-1,3-dioxa-7-aza-cyclopenta[a]naphthalene | CC1C2=CC=C3C(=C2CCN1)OCO3 | C11H13NO2
